US04640916
To a solution of 4.6 g of 2-aminothiophenol in 50 ml of dimethylformamide was added dropwise 9.55 g of methyl 2,4-dibromobutyrate with stirring at room temperature. After stirring one hour, the reaction mixture was poured into water to give crystals of 2-(2-bromoethyl)-2H-1,4-benzothiazin-3(4H)-one. The crystals were collected by filtration and washed with water, n-hexane and cold methanol. The yield was 6.32 g (63.3%). Recrystallization from ethyl acetate gave prisms, m.p. 151°-152° C.

reactant | 2-aminothiophenol | 4.6 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | methyl 2,4-dibromobutyrate | 9.55 g | BrC(C(=O)OC)CCBr | C5H8Br2O2
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-(2-bromoethyl)-2H-1,4-benzothiazin-3(4H)-one | BrCCC1SC2=C(NC1=O)C=CC=C2 | C10H10BrNOS
